US08314091B2
A solution of methanesulfonyl chloride (165 mg, 1.44 mmol) in dichloromethane (2.0 mL) was added to a stirred solution of N-tert-butyl-3-(1-hydroxy-2-methylpropyl)benzamide (300 mg, 1.20 mmol) in dichloromethane (8.0 mL). After 1.5 hours stirring, the mixture was partitioned between dichloromethane and aqueous sodium hydrogen carbonate solution. The aqueous layer was extracted with dichloromethane and the combined organic layers were washed with brine, dried over sodium sulfate and concentrated under vacuum to afford the intermediate 1-(3-(tert-butylcarbamoyl)phenyl)propyl methanesulfonate.

reactant | methanesulfonyl chloride | 1.44 mmol, 165 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | N-tert-butyl-3-(1-hydroxy-2-methylpropyl)benzamide | 1.20 mmol, 300 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)C(C(C)C)O)=O | C15H23NO2
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 8.0 mL | ClCCl | CH2Cl2
product | 1-(3-(tert-butylcarbamoyl)phenyl)propyl methanesulfonate | CS(=O)(=O)OC(CC)C1=CC(=CC=C1)C(NC(C)(C)C)=O | C15H23NO4S
